data/core_train_final.csv
"CC(CCC=C(C)C)[CH:21]=[CH2:20].C1C[CH:10]C(=O)C1>>CC(CCC=C(C)C)[CH:21][CH2:20][CH:10]1CCCC1=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH2:20]=[CH:21]N1CCCC1=O.C1CC(=O)N(C1)[CH:10]CC(CO)N2CCCC2=O>>C1CC(=O)N(C1)[CH:21][CH2:20][CH:10](CC(CO)N2CCCC2=O)N3CCCC3=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCC1=CC=CC=C1.[Br:20][Br:21].[He]>>[He].CCC1=CC=CC=C1.[Br:20].[Br:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"CCC(C)(C)[CH2:10].[Cl:20][Cl:21]>>CCC(C)(C)[CH2:10][Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:28][CH:29]([CH:54][Cl:55])[CH:30]([CH2:31][CH:32]([CH2:34][CH:35]([CH2:37][CH:38]([CH2:40][CH:41]([CH2:43][CH:44]([CH2:45][O:46][C:47](=[O:51])[O:48][CH2:49][CH3:50])[Cl:52])[Cl:42])[Cl:39])[Cl:36])[Cl:33])[Cl:53].[CH3:17][CH2:16][O:15][C:14](=[O:18])[O:13][CH2:12][CH:10]([CH2:9][CH:8]([CH2:7][CH:6]([CH2:5][CH:4]([CH2:3][CH:2]([CH2:22][CH:23]([CH2:24][CH:25][Cl:26])[Cl:27])[Cl:1])[Cl:21])[Cl:20])[Cl:19])[Cl:11]>>[H:28][CH:29]([CH:30]([CH2:31][CH:32]([CH2:34][CH:35]([CH2:37][CH:38]([CH2:40][CH:41]([CH2:43][CH:44]([CH2:45][O:46][C:47](=[O:51])[O:48][CH2:49][CH3:50])[Cl:52])[Cl:42])[Cl:39])[Cl:36])[Cl:33])[Cl:53])[CH:54]([CH:25]([CH2:24][CH:23]([CH2:22][CH:2]([CH2:3][CH:4]([CH2:5][CH:6]([CH2:7][CH:8]([CH2:9][CH:10]([CH2:12][O:13][C:14](=[O:18])[O:15][CH2:16][CH3:17])[Cl:11])[Cl:19])[Cl:20])[Cl:21])[Cl:1])[Cl:27])[Cl:26])[Cl:55] 25-25,54; 54-25,54",Room Temperature,Termination,recombine
"[H:20][CH:21]1CC1.[Cl:10]>>[H:20][Cl:10].C1C[CH:21]1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C](C)C#N.C[C:21](C)(C#N)[N:20]=[N:10]>>C[C](C)C#N.C[C:21](C)(C#N).[N:20]=[N:10] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C1C[CH:10]C=C1.[Br:20]>>C1C[CH:10](C=C1)[Br:20] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:7][C:6](=[CH:5][CH2:4][CH2:3][C:2](=[N:9])[CH3:1])[CH3:8]>>[CH3:1][C:2]1=[N:9][CH:5]([CH2:4][CH2:3]1)[C:6]([CH3:7])[CH3:8] 9-9,5; 5,6-5,9; 5,6-6",Room Temperature,Propagation,addition
"CC1CC([CH:10]1)(C)C.[Cl:20][Cl:21]>>CC1CC([CH:10]1[Cl:20])(C)C.[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC[Sn:20](CCCC)CCCC.CC1CCC(=O)C1=C.CC(=O)CC[C:11](C)(C)[Br:10]>>CCCC[Sn:20](CCCC)(CCCC)[Br:10].CC1CCC(=O)C1=C.C[C:11](C)CCC(=O)C 10,11-10,20;10,11-11;20-10,20",Room Temperature,Propagation,abstraction
"[CH3:1][C:2]1([CH:12]2[CH2:13][CH:4]1[C:5]([CH:9]([CH2:11]2)[O:10])([CH3:6])[O:7][O:8])[CH3:3]>>[CH3:6][C:5]([CH:4]1[CH2:13][CH:12]([C:2]1([CH3:1])[CH3:3])[CH2:11][CH:9]=[O:10])[O:7][O:8] 10-9,10; 5,9-5; 5,9-9,10",Room Temperature,Propagation,retroaddition
"CC1C[CH:10]C1.[Cl:20][Cl:21]>>CC1C[CH:10](C1)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C:10](OCC)O[Na].C[C:20](OCC)O[Na]>>C[C:10]([C:20](C)(OCC)O[Na])(OCC)O[Na] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:1][C:2]([H:3])[C:4]1=[CH:5][CH:6]=[CH:7][CH:8]=[CH:9]1.[H:11][Cl:10].[Cl:12]>>[H:1][C:2]([H:3])([C:4]1=[CH:5][CH:6]=[CH:7][CH:8]=[CH:9]1)[Cl:12].[H:11][Cl:10] 12-2,12;2-2,12",Room Temperature,Termination,recombine
"[CH2:5]1[CH:4]=[CH:3][CH:2]([CH:9]=[CH:8][CH:6]1[O:7])[O:1]>>[CH2:5]1[CH:4]=[CH:3][CH:2]2[CH:9]([O:1]2)[CH:8][CH:6]1[O:7] 8,9-9,1; 1-9,1; 8,9-8",Room Temperature,Propagation,addition
"[O:10][O:11][O].[Br:20]>>[O:11][O].[O:10][Br:20] 10,11-10,20;10,11-11;20-10,20",Room Temperature,Propagation,abstraction
"[H:2][O:1].[O:3][O:4][O:5]>>[H:2][O:1][O:5][O:3][O:4] 1-1,5;5-1,5",Room Temperature,Termination,recombine
"[H:20][O:21]O.C1CC(=O)[N:10]C1=O.[Br]>>[H:20][N:10]1C(=O)CCC1=O.O[O:21].[Br] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][C:2]([CH3:3])([CH3:13])[O:4][C:5]([CH2:7][CH2:8][C:9]([F:10])[F:11])([F:6])[F:12].[CH2:14]=[C:15]([F:16])[F:17]>>[CH3:13][C:2]([CH3:1])([CH3:3])[O:4][C:5]([CH2:7][CH2:8][C:9]([CH2:14][C:15]([F:16])[F:17])([F:10])[F:11])([F:6])[F:12] 14,15-15; 14,15-14,9; 9-9,14",Room Temperature,Propagation,addition
"[H][C:20]1=[CH:21][CH:22]=[CH:23]C=C1.C2=CC=C[C:10]=C2>>[H][C:20]3([C:10]4=CC=CC=C4)[CH:21]=[CH:22][CH:23]C=C3 10-10,20;20,21-10,20;20,21-21,22;22,23-21,22;22,23-23",Room Temperature,Propagation,addition
"[H:27][CH:26]1[CH2:25][CH2:24][CH:23]([CH2:29][CH2:28]1)[CH3:22].[CH3:5][C:4]([CH3:6])([CH3:7])[N:3][C:2](=[O:1])[C:8]1=[CH:9][C:10](=[CH:15][C:16](=[CH:21]1)[C:17]([F:18])([F:19])[F:20])[C:11]([F:12])([F:13])[F:14]>>[H:27][N:3]([C:2](=[O:1])[C:8]1=[CH:21][C:16](=[CH:15][C:10](=[CH:9]1)[C:11]([F:14])([F:13])[F:12])[C:17]([F:18])([F:20])[F:19])[C:4]([CH3:7])([CH3:5])[CH3:6].[CH3:22][CH:23]1[CH2:24][CH2:25][CH:26][CH2:28][CH2:29]1 3-3,27; 26,27-3,27; 26,27-26",Room Temperature,Propagation,abstraction
"[CH3:10].[Cl:20]>>[CH3:10][Cl:20] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH2:21]C1=CC=C(C=C1)C.[Br:10]>>[H:20][Br:10].CC1=CC=C(C=C1)[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
